US09233922B2
[PdCl(π-allyl)]2 (23.1 mg, 0.1 mol %) and cBRIDP (89.0 mg, 0.4 mol %) were placed into a 50 mL, two-necked, round bottomed flask equipped a gas inlet, and the flask was evacuated and filled with nitrogen. Subsequently, to the mixture was added dehydrated THF (8.2 mL, 101.0 mmol, 1.6 equivalents) to prepare a catalyst solution. A 200 mL, four-necked, round-bottomed flask equipped with a Teflon® coated magnetic stirring bar, condenser, dropping funnel, thermometer, and a gas inlet was evacuated and filled with nitrogen. Carbazole (10.9 g, 65.0 mmol, 1.03 equivalents) and dehydrated xylenes (66 mL) were charged into the flask, and the mixture was cooled to 5° C. using an ice bath. Subsequently, to the mixture was added a THF solution of MeMgCl (3.22 mol/L, 20.0 mL, 64.4 mmol, 1.02 equivalents) dropwise via the dropping funnel at such a rate that the temperature of the reaction solution was kept at 20° C. or lower, and then the dropping funnel was washed with dehydrated xylenes (11 mL). Subsequently, to the solution were added 4-chloroanisole (7.7 mL, 63.1 mmol, 1.0 equivalent) and the catalyst solution (8.2 mL) successively, and the solution was stirred for 1 hour under reflux. After cooling the reaction mixture to room temperature, to the mixture were added water (25 mL) and ammonium chloride (1.7 g). The aqueous layer was separated off, and the organic layer was concentrated under reduced pressure to give solid residue. The residue was dissolved in toluene, and the solution was decolorized by silica gel (1 g) and filtered through a Celite pad. The filtrate was concentrated under reduced pressure to give the solid, which was recrystallized from toluene/methanol to afford 16.1 g of N-(4-methoxylphenyl)carbazole as a white powder.

reactant | Carbazole | 65.0 mmol, 10.9 g, 1.03 equivalents | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | MeMgCl | 64.4 mmol, 3.22 mol/L, 20.0 mL, 1.02 equivalents | C[Mg]Cl
reactant | 4-chloroanisole | 63.1 mmol, 7.7 mL, 1.0 equivalent | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | ammonium chloride | 1.7 g | [Cl-].[NH4+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | cBRIDP | 89.0 mg | CC1(CC1(C2=CC=CC=C2)C3=CC=CC=C3)P(C(C)(C)C)C(C)(C)C | C24H33P
solvent | water | 25 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 101.0 mmol, 8.2 mL, 1.6 equivalents | C1CCOC1 | C4H8O
product | N-(4-methoxylphenyl)carbazole | 16.1 g, yield: 93.3% | O(C)C1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C19H15NO
